US08377930B2
2-(2,3-Dihydrobenzo[b][1,4]dioxin-6-yl)-2-methoxyacetohydrazide
To a stirred solution of methyl 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-methoxyacetate (18.3 mmol) in anhydrous EtOH (150 mL) was added hydrazine hydrate (73.2 mmol, 4 eq) and heated to 90° C. Stirring was then continued for 24 hours. The reaction mixture was then cooled and the solvents removed under reduced pressure. The crude oil was diluted with EtOAc and washed with H2O and the organic phase dried over Na2SO4, filtered, and the solvents removed under reduced pressure to yield a yellow oil (3.5 g) that was used without further purification.

reactant | methyl 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-methoxyacetate | 18.3 mmol | O1C2=C(OCC1)C=C(C=C2)C(C(=O)OC)OC | C12H14O5
reactant | hydrazine hydrate | 73.2 mmol, 4 eq | O.NN
solvent | EtOH | 150 mL | CCO | C2H6O
product | 2-(2,3-Dihydrobenzo[b][1,4]dioxin-6-yl)-2-methoxyacetohydrazide | 3.5 g | O1C2=C(OCC1)C=C(C=C2)C(C(=O)NN)OC | C11H14N2O4
